US07320993B1
4-(benzhydryl-amino)-butylamine
Batch size: 4.6 g (<11.3 mmol) N-[4-(benzhydryl-amino)-butyl]-carbamic acid tert-butyl ester and 5.2 ml (63 mmol) concentrated hydrochloric acid in 50 methanol.

reactant | N-[4-(benzhydryl-amino)-butyl]-carbamic acid tert-butyl ester | <11.3 mmol, 4.6 g | C(C)(C)(C)OC(NCCCCNC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H30N2O2
reactant | hydrochloric acid | 63 mmol, 5.2 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-(benzhydryl-amino)-butylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCN | C17H22N2
